US08835449B2
tert-Butyl 3-(2-(2-hydroxyethoxy)phenyl)-3-oxopropanoate
To a solution of tert-butyl acetate (7.96 g, 68.5 mmol) in anhydrous THF (100 mL) was added freshly prepared lithium diisopropyl amine (37 mL, 1.85 M in THF) dropwise over 15 min at −78° C., and the mixture was stirred at −78° C. for 30 min. 2H-benzo[e][1,4]dioxepin-5(3H)-one (10.2 g, 62.3 mmol) was added dropwise as a solution in THF (50 mL) at −78 C, and stirring was continued for 30 min. Saturated NaHCO3 solution was added and the mixture was extracted with EtOAc. The organic layer was dried (Na2SO4), and concentrated under reduced pressure to give the title compound (6.0 g, 77.9%) as a yellow oil, which was used directly in the next step without further purification.

reactant | tert-butyl acetate | 68.5 mmol, 7.96 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | lithium diisopropyl amine | 1.85 M, 37 mL | C(C)(C)NC(C)C.[Li]
reactant | 2H-benzo[e][1,4]dioxepin-5(3H)-one | 62.3 mmol, 10.2 g | O1CCOC(C2=C1C=CC=C2)=O | C9H8O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-(2-(2-hydroxyethoxy)phenyl)-3-oxopropanoate | 6.0 g, 77.9% | OCCOC1=C(C=CC=C1)C(CC(=O)OC(C)(C)C)=O | C15H20O5
